US07572820B2
1-({5-[3,5-bis(Trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 23 from 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile and 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: MS (ES) m/z 510 (M−1).

reactant | 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1NC2=CC=C(C(=C2C1)C#N)C#N)F | C11H5F2N3
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
product | 1-({5-[3,5-bis(Trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C#N)C(F)F)(F)F | C22H9F8N5O
